US04503237
Preparation of Chloroacetic acid tetrahydropyranyl ester:
A mixture of 185 g (2.2 mol) 3,4-dihydro-2H-pyrene, 200 ml toluene and 0.2 ml concentrated sulfuric acid is added dropwise over a period of 15 min at a temperature of 15° C. with a solution of 142 g (1.5 mol) chloroacetic acid in 500 ml toluene. During the addition ice-cooling is provided. After finishing the addition of the chloroacetic acid solution the reaction mixture is stirred 2 hours at room temperature. 15 g anhydrous potassium carbonate are added for stabilizing purposes. The reaction mixture thus stabilized then is evaporated in a rotating evaporator at 45° C. applying the vacuum of a water-jet vacuum pump. Having thus stripped off the lower boiling volatile components a mixture of the tetrahydropyranyl ester and potassium carbonate in an amount of 283 g is obtained as a residue. Based on the chloroacetic acid the yield is 100%.

reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | chloroacetic acid | 1.5 mol, 142 g | ClCC(=O)O | C2H3ClO2
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Chloroacetic acid tetrahydropyranyl ester | yield is 100% | O1C(CCCC1)OC(CCl)=O | C7H11ClO3
